US06964961B2
A. 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid [3-(4-methyl-piperazin-1-yl)-propyl]-amide
The title compound was prepared from 3-(4-methylpiperazin-1-yl)-propylamine and lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate by a procedure analogous to Example 1B. MS: 353/355 (MH+); HPLC Rf: n.d.; HPLC purity: n.d.

reactant | 3-(4-methylpiperazin-1-yl)-propylamine | CN1CCN(CC1)CCCN | C8H19N3
reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
product | 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid [3-(4-methyl-piperazin-1-yl)-propyl]-amide | CN1CCN(CC1)CCCNC(=O)C1=CC2=NC=CC(=C2S1)Cl | C16H21ClN4OS
